US03946027
2-Methyl-4-(3',4',5'-trimethoxyphenyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester ##SPC25##
11.8 g of 3,4,5-trimethoxybenzaldehyde, 14 g of oxalacetic acid diethyl ester and 7.8 g of β-aminocrotonic acid ethyl ester in 30 ccs of ethanol are heated to the boil overnight and light yellow crystals of melting point 134° are obtained. Yield 40%.

reactant | 3,4,5-trimethoxybenzaldehyde | 11.8 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | oxalacetic acid diethyl ester | 14 g | C(C)OC(CC(=O)C(=O)OCC)=O | C8H12O5
reactant | β-aminocrotonic acid ethyl ester | 7.8 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-4-(3',4',5'-trimethoxyphenyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester | Yield 40% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=C(C(=C1)OC)OC)OC)C(=O)OCC)C(=O)OCC)C | C24H31NO9
